// ----------------------------------------
// NOR-NOR latch with adjustment to prevent
// leakage due to input being precharged at
// up to 0.4V
// ----------------------------------------
// - _vb is a transistor associated with a Ids going into/out valuebar
// - _v  ...

subckt latch_NORNOR ( 
+  vdd vss vddBulk vssBulk 
+  set reset asyncreset inputsReady
+  value valuebar )

minputup_vb (vdd     set      ntop_vb  vddBulk) mc_pmos_lvt w=$<sp.SlatchInUp>$*width    l=length
mholdup_vb  (ntop_vb value    valuebar vddBulk) mc_pmos_lvt w=$<sp.SlatchHoldUp>$*width  l=length  
minputup_v  (vdd     reset    ntop_v   vddBulk) mc_pmos_lvt w=$<sp.SlatchInUp>$*width    l=length
mholdup_v   (ntop_v  valuebar value    vddBulk) mc_pmos_lvt w=$<sp.SlatchHoldUp>$*width  l=length  

mholddown_v  (value    valuebar   vss vssBulk) mc_nmos_lvt w=$<sp.SlatchHoldDown>$*width  l=length  
mholddown_vb (valuebar value      vss vssBulk) mc_nmos_lvt w=$<sp.SlatchHoldDown>$*width  l=length  
massync_vb   (valuebar asyncreset vss vssBulk) mc_nmos_lvt w=$<sp.SlatchHoldDown>$*width  l=length

minputdown_vb (valuebar   set   nbottom_vb vssBulk) mc_nmos_lvt w=$<sp.SlatchInDown>$*width l=length
mblock_vb     (nbottom_vb inputsReady vss  vssBulk) mc_nmos_lvt w=$<sp.SlatchBlock>$*width  l=length
minputdown_v  (value      reset nbottom_b  vssBulk) mc_nmos_lvt w=$<sp.SlatchInDown>$*width l=length
mblock_v      (nbottom_b  inputsReady vss  vssBulk) mc_nmos_lvt w=$<sp.SlatchBlock>$*width  l=length

Cpar (value valuebar) capacitor c=0.5f
//probably an overestimation


ends latch_NORNOR


