// CHAIN functions {{{1
// ==============================================
// ==============================================

// CHAIN chainLength=5 {{{2
// ==============================================
subckt CHAIN_1 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
connect out n5 

ends
// }}}2


// CHAIN chainLength=1 {{{2
// ==============================================
subckt CHAIN_2 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
connect out n1 

ends
// }}}2


// CHAIN chainLength=2 {{{2
// ==============================================
subckt CHAIN_3 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
connect out n2 

ends
// }}}2


// CHAIN chainLength=3 {{{2
// ==============================================
subckt CHAIN_4 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
connect out n3 

ends
// }}}2


// CHAIN chainLength=4 {{{2
// ==============================================
subckt CHAIN_5 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
connect out n4 

ends
// }}}2


// CHAIN chainLength=6 {{{2
// ==============================================
subckt CHAIN_6 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
connect out n6 

ends
// }}}2


// CHAIN chainLength=7 {{{2
// ==============================================
subckt CHAIN_7 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
Xinv_6 ( vdd vss n6 n7 )
connect out n7 

ends
// }}}2


// CHAIN chainLength=8 {{{2
// ==============================================
subckt CHAIN_8 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
Xinv_6 ( vdd vss n6 n7 )
Xinv_7 ( vdd vss n7 n8 )
connect out n8 

ends
// }}}2


// CHAIN chainLength=9 {{{2
// ==============================================
subckt CHAIN_9 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
Xinv_6 ( vdd vss n6 n7 )
Xinv_7 ( vdd vss n7 n8 )
Xinv_8 ( vdd vss n8 n9 )
connect out n9 

ends
// }}}2


// CHAIN chainLength=10 {{{2
// ==============================================
subckt CHAIN_10 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
Xinv_6 ( vdd vss n6 n7 )
Xinv_7 ( vdd vss n7 n8 )
Xinv_8 ( vdd vss n8 n9 )
Xinv_9 ( vdd vss n9 n10 )
connect out n10 

ends
// }}}2


// CHAIN chainLength=55 {{{2
// ==============================================
subckt CHAIN_11 ( vdd vss in out )
parameters S=0 R=2

connect in n0
Xinv_0 ( vdd vss n0 n1 )
Xinv_1 ( vdd vss n1 n2 )
Xinv_2 ( vdd vss n2 n3 )
Xinv_3 ( vdd vss n3 n4 )
Xinv_4 ( vdd vss n4 n5 )
Xinv_5 ( vdd vss n5 n6 )
Xinv_6 ( vdd vss n6 n7 )
Xinv_7 ( vdd vss n7 n8 )
Xinv_8 ( vdd vss n8 n9 )
Xinv_9 ( vdd vss n9 n10 )
Xinv_10 ( vdd vss n10 n11 )
Xinv_11 ( vdd vss n11 n12 )
Xinv_12 ( vdd vss n12 n13 )
Xinv_13 ( vdd vss n13 n14 )
Xinv_14 ( vdd vss n14 n15 )
Xinv_15 ( vdd vss n15 n16 )
Xinv_16 ( vdd vss n16 n17 )
Xinv_17 ( vdd vss n17 n18 )
Xinv_18 ( vdd vss n18 n19 )
Xinv_19 ( vdd vss n19 n20 )
Xinv_20 ( vdd vss n20 n21 )
Xinv_21 ( vdd vss n21 n22 )
Xinv_22 ( vdd vss n22 n23 )
Xinv_23 ( vdd vss n23 n24 )
Xinv_24 ( vdd vss n24 n25 )
Xinv_25 ( vdd vss n25 n26 )
Xinv_26 ( vdd vss n26 n27 )
Xinv_27 ( vdd vss n27 n28 )
Xinv_28 ( vdd vss n28 n29 )
Xinv_29 ( vdd vss n29 n30 )
Xinv_30 ( vdd vss n30 n31 )
Xinv_31 ( vdd vss n31 n32 )
Xinv_32 ( vdd vss n32 n33 )
Xinv_33 ( vdd vss n33 n34 )
Xinv_34 ( vdd vss n34 n35 )
Xinv_35 ( vdd vss n35 n36 )
Xinv_36 ( vdd vss n36 n37 )
Xinv_37 ( vdd vss n37 n38 )
Xinv_38 ( vdd vss n38 n39 )
Xinv_39 ( vdd vss n39 n40 )
Xinv_40 ( vdd vss n40 n41 )
Xinv_41 ( vdd vss n41 n42 )
Xinv_42 ( vdd vss n42 n43 )
Xinv_43 ( vdd vss n43 n44 )
Xinv_44 ( vdd vss n44 n45 )
Xinv_45 ( vdd vss n45 n46 )
Xinv_46 ( vdd vss n46 n47 )
Xinv_47 ( vdd vss n47 n48 )
Xinv_48 ( vdd vss n48 n49 )
Xinv_49 ( vdd vss n49 n50 )
Xinv_50 ( vdd vss n50 n51 )
Xinv_51 ( vdd vss n51 n52 )
Xinv_52 ( vdd vss n52 n53 )
Xinv_53 ( vdd vss n53 n54 )
Xinv_54 ( vdd vss n54 n55 )
connect out n55 

ends
// }}}2

// ==============================================
// ==============================================
// }}}1

